US04610818
Pyrrol-2-yl-carbonyl-L-leucyl-glycinamide
7.0 ml of triethylamine and 10.4 g of the N-hydroxysuccinimide ester of pyrrole-2-carboxylic acid were added to 9.4 g of L-leucyl-glycinamide in 120 ml of dioxane at 10° C. and the reaction mixture was stirred for 2 hours at this temperature, after which 30 ml of water were added and the stirred mixture was allowed to react for 20 hours at room temperature.

reactant | triethylamine | 7.0 ml | C(C)N(CC)CC | C6H15N
reactant | pyrrole-2-carboxylic acid | N1C(=CC=C1)C(=O)O | C5H5NO2
reactant | L-leucyl-glycinamide | 9.4 g | N[C@@H](CC(C)C)C(=O)NCC(=O)N | C8H17N3O2
reactant | water | 30 ml | O | H2O
solvent | dioxane | 120 ml | O1CCOCC1 | C4H8O2
product | Pyrrol-2-yl-carbonyl-L-leucyl-glycinamide | N1C(=CC=C1)C(=O)N[C@@H](CC(C)C)C(=O)NCC(=O)N | C13H20N4O3
